US07589206B2
1-(7-Cyclohexylamino-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl)-1-morpholin-4-yl-methanone hydrochloride salt
A mixture of 7-chloro-3-methyl-4-(1-morpholin-4-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester (66 mg), cyclohexylamine (80 ul), and methanesulfonic acid (45 ul) in 1,4-dioxane (1 ml) was heated under microwave conditions at 180° C. for 30 minutes. Cyclohexylamine (600 ul in total) was added and the mixture heated under microwave conditions at 180° C. for 2.5 h. The solid mass obtained was purified as described in Example 11(c) to afford the title compound (31 mg).

reactant | 7-chloro-3-methyl-4-(1-morpholin-4-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | 66 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(=O)N2CCOCC2)Cl)C | C18H22ClN3O4
reactant | cyclohexylamine | 80 ul | C1(CCCCC1)N | C6H13N
reactant | methanesulfonic acid | 45 ul | CS(=O)(=O)O | CH4O3S
reactant | Cyclohexylamine | 600 ul | C1(CCCCC1)N | C6H13N
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 1-(7-Cyclohexylamino-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl)-1-morpholin-4-yl-methanone hydrochloride salt | 31 mg | Cl.C1(CCCCC1)NC=1N=CC(=C2C1NC=C2C)C(=O)N2CCOCC2 | InChI=1S/C19H26N4O2.ClH/c1-13-11-20-17-16(13)15(19(24)23-7-9-25-10-8-23)12-21-18(17)22-14-5-3-2-4-6-14;/h11-12,14,20H,2-10H2,1H3,(H,21,22);1H
